US04639518
5,6-Dimethoxy-3-methylquinazolin-2,4(1H, 3H)-dione 1/4 Hydrate
A cold solution of ethyl 2,3-dimethoxy-6-aminobenzoate (8.0 g, 35.5 mM) in pyridine (15.4 ml) was added to CH3NCO (3.2 g, 55.9 mM) in pyridine (11.5 ml) at 0° C. The solution was stirred at 0° C. for 30 minutes then at room temperature for 1 hour. The reaction mixture was concentrated to dryness. The resulting brown gummy residue was dissolved in 73 ml of 1N NaOH (4:1, MeOH: H2O, 2.9 g of NaOH pellets in 14.7 ml H2O and 58.3 ml MeOH) and refluxed for 2 hours. The solvent was removed in vacuo to give a light brown solid. This was dissolved in H2O (180 ml) and the pH adjusted to 5 with AcOH. The resulting solid was filtered and dried to afford 6.2 g (73%) of the desired product, mp 247°-250° C.

reactant | ethyl 2,3-dimethoxy-6-aminobenzoate | 35.5 mM, 8.0 g | COC1=C(C(=O)OCC)C(=CC=C1OC)N | C11H15NO4
reactant | CH3NCO | 55.9 mM, 3.2 g | CN=C=O | C2H3NO
reactant | AcOH | CC(=O)O | C2H4O2
solvent | pyridine | 15.4 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 11.5 ml | N1=CC=CC=C1 | C5H5N
solvent | H2O | 180 ml | O | H2O
product | 5,6-Dimethoxy-3-methylquinazolin-2,4(1H, 3H)-dione | 6.2 g, 73% | COC1=C2C(N(C(NC2=CC=C1OC)=O)C)=O | C11H12N2O4
